US09303015B2
According to the general method described in Synth. Commun. 2010, 40, 732, a mixture of 4-bromoaniline (10.0 g, 58.1 mmol) and 2,2-dimethyl-1,3-dioxan-4,6-dione (8.40 g, 58.1 mmol) was heated at 80° C. for 1 hour and cooled to room temperature to provide 3-((4-bromophenyl)amino)-3-oxopropanoic acid as a solid. A stream of nitrogen gas was passed over the solid product to remove liquid acetone formed as a by-product. To this solid was added Eaton's reagent (40 mL) and heated at 70° C. for 12 hours and cooled to room temperature. To the resulting mixture was added water and stirred vigorously to provide a suspension which was filtered. The solid residue was washed with water and dried in air to provide the title compound.

reactant | 4-bromoaniline | 58.1 mmol, 10.0 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | 2,2-dimethyl-1,3-dioxan-4,6-dione | 58.1 mmol, 8.40 g | CC1(OC(CC(O1)=O)=O)C | C6H8O4
product | 3-((4-bromophenyl)amino)-3-oxopropanoic acid | BrC1=CC=C(C=C1)NC(CC(=O)O)=O | C9H8BrNO3
